US07524849B2
A mixture of diethyl 2-(2,4,6-trifluorophenyl)malonate (U.S. Pat. No. 6,156,925)(870 mg, 3.0 mmol), 2-pyrazinecarboxamidine hydrochloride (500 mg, 3.15 mmol), and 600 mg of tributylamine is stirred under nitrogen atmosphere at 180° C. for 1 h and cooled to room temperature. The mixture is cooled to room temperature and treated with 1.0 N hydrochloric acid. The precipitates are collected by filtration, washed with water and dried to give 2-pyrazin-2-yl-5-(2,4,6-trifluorophenyl)pyrimidine-4,6-diol as a tan solid (401 mg), which is used directly in the next step.

reactant | diethyl 2-(2,4,6-trifluorophenyl)malonate | FC1=C(C(=CC(=C1)F)F)C(C(=O)OCC)C(=O)OCC | C13H13F3O4
reactant | 2-pyrazinecarboxamidine hydrochloride | 3.15 mmol, 500 mg | Cl.N1=C(C=NC=C1)C(=N)N
reactant | tributylamine | 600 mg | C(CCC)N(CCCC)CCCC | C12H27N
reactant | hydrochloric acid | 1.0 N | Cl | ClH
product | 2-pyrazin-2-yl-5-(2,4,6-trifluorophenyl)pyrimidine-4,6-diol | 401 mg | N1=C(C=NC=C1)C1=NC(=C(C(=N1)O)C1=C(C=C(C=C1F)F)F)O | C14H7F3N4O2
